US08183240B2
Step 3: Ethyl 5-amino-4-cyano-3-(2,4-dichlorophenyl)thiophene-2-carboxylate
Ethyl 4-cyano-3-(2,4-dichlorophenyl)-5-[(2,4-dimethoxybenzyl)amino]thiophene-2-carboxylate (4.70 g, 0.00956 mol) was dissolved in dichloromethane (100 mL). Trifluoroacetic acid (25 mL) was added and the solution was stirred at room temperature for ten minutes. The reaction was concentrated in vacuo, diluted with ethyl acetate and filtered. The filtrate was washed with saturated sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography was performed to yield the title compound (2.92 g, 90%) as a yellow solid. LCMS: (FA) ES+, 341. 1H NMR (400 MHz, d6-DMSO) δ: 8.17 (s, 2H) 7.75 (d, 1H, J=2.00 Hz), 7.52-7.48 (m, 1H), 7.39 (d, 1H, J=8.28 Hz), 4.05-3.92 (m, 2H), 1.02-0.96 (m, 3H).

reactant | Ethyl 4-cyano-3-(2,4-dichlorophenyl)-5-[(2,4-dimethoxybenzyl)amino]thiophene-2-carboxylate | 0.00956 mol, 4.70 g | C(#N)C=1C(=C(SC1NCC1=C(C=C(C=C1)OC)OC)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl | C23H20Cl2N2O4S
reactant | Trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Ethyl 5-amino-4-cyano-3-(2,4-dichlorophenyl)thiophene-2-carboxylate | 2.92 g, 90% | NC1=C(C(=C(S1)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl)C#N | C14H10Cl2N2O2S
